US07666901B2
Preparation of Acetic acid 4-{[(2-diethylamino-ethyl)-methyl-amino]-methylene}-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,3,4,7,10,11,12,13,14,15,16,17-dodecahydro-2-oxa-cyclopenta[a]phenanthren-11-yl ester
To a solution of 100 mg (0.23 mmol) 17-hydroxywortmannin in 2 mL CH2Cl2 is added N,N-Diethyl-N′-methyl-ethane-1,2-diamine (45 μL, 0.28 mmol). The reaction mixture is stirred at room temperature for 12 hours and then concentrated in vacuo. The residue is dissolved in EtOAc and precipitated with hexane. The precipitate is washed two times with hexane to give the product as a yellow solid. MS (ESI) m/z 561 (M+H).

reactant | 17-hydroxywortmannin | 0.23 mmol, 100 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | N,N-Diethyl-N′-methyl-ethane-1,2-diamine | 0.28 mmol, 45 μL | C(C)N(CCNC)CC | C7H18N2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | Acetic acid 4-{[(2-diethylamino-ethyl)-methyl-amino]-methylene}-6,17-dihydroxy-1-methoxymethyl-10,13-dimethyl-3,7-dioxo-1,3,4,7,10,11,12,13,14,15,16,17-dodecahydro-2-oxa-cyclopenta[a]phenanthren-11-yl ester | C(C)N(CCN(C)C=C1C(OC(C2(C=3C(CC4(C(CCC4C3C(C(=C12)O)=O)O)C)OC(C)=O)C)COC)=O)CC | C30H44N2O8
